US07932393B2
To a cold (0° C.) solution of 1.25 grams (0.0051 mole) of 2-{[(6-chloro(3-pyridyl)methyl](2-methoxyethyl)amino}ethan-1-ol and 1.9 grams (0.0057 mole) of carbon tetrabromide in 70 mL of methylene chloride was added 1.66 grams (0.0064 mole) of triphenylphosphine. The reaction mixture was allowed to warm to ambient temperature where it stirred for 1.5 hours. After this time silica gel was added and the mixture concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel eluting with a 50/50 mixture of diethyl ether and hexanes. The appropriate fractions were combined and concentrated under reduced pressure, yielding 1.17 grams of (2-bromoethyl)[(6-chloro(3-pyridyl))methyl](2-methoxyethyl)amine as an oil. The NMR spectrum was consistent with the proposed structure.

reactant | [(6-chloro(3-pyridyl)methyl](2-methoxyethyl)amino}ethan-1-ol | ClC1=CC=C(C=N1)CN(CCOC)C(C)O | C11H17ClN2O2
reactant | carbon tetrabromide | 0.0057 mole, 1.9 grams | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.0064 mole, 1.66 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | (2-bromoethyl)[(6-chloro(3-pyridyl))methyl](2-methoxyethyl)amine | 1.17 grams | BrCCN(CCOC)CC=1C=NC(=CC1)Cl | C11H16BrClN2O
